US07091214B2
A solution of methyl vinyl sulfone (3.0 g, 29 mmol) and 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol (5.4 g, 14 mmol) in anhydrous THF (57 mL) was purged with nitrogen; solid sodium hydride (available as a 60% dispersion in mineral oil, 57 mg, 1.4 mmol) was added. The reaction was stirred for 70 minutes at ambient temperature, at which time an analysis by HPLC indicated a ratio of product to starting material of 3:1. The reaction mixture was combined with material from another run, and water (100 mL) was added. The aqueous layer was separated and extracted with ethyl acetate (100 mL, 50 mL). The combined organic fractions were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with 95:5 dichloromethane:methanol) to provide 7-bromo-2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinoline.

reactant | methyl vinyl sulfone | 29 mmol, 3.0 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 14 mmol, 5.4 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)COCC | C17H20BrN3O2
reactant | sodium hydride | [H-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | THF | 57 mL | C1CCOC1 | C4H8O
product | 7-bromo-2-ethoxymethyl-1-{2-[2-(methanesulfonyl)ethoxy]-2-methylpropyl}-1H-imidazo[4,5-c]quinoline | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(C)OCCS(=O)(=O)C)COCC | C20H26BrN3O4S
